US04209529
To the solution containing 1.25 g. of farnesyl carboxylic acid dissolved in 0.5 N ammonia water, 0.845 g. of silver nitrate in 3 ml. water was added. The resulting precipitate was collected by filtration and dried. The silver salt was powdered and suspended in 120 ml. of benzene, and distilled to about 60 ml. of benzene solution to remove the remaining water azeotropically. Separately, α-bisabolol chloride was prepared by adding triphenyl phosphine in an amount of 1.3 times the stoichiometric quantity, to α-bisabolol in a solution of carbon tetrachloride (1:8) and following 1 hour of reflux in water bath, the product was purified by vacuum distillation. The purified α-bisabolol chloride in an amount of 1.39 g. was dissolved in 3 ml. of benzene and added to the above solution of silver salt suspension which had been prepared previously. After 9 hours of reflux, the reaction mixture was washed with water and dried (sodium sulfate). The desired fraction was obtained by vacuum distillation (155°-156° C./0.1 mmHg) under N2 gas stream.

reactant | farnesyl carboxylic acid | C(C=C(C)CCC=C(C)CCC=C(C)C)C(=O)O | C16H26O2
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | α-bisabolol | CC1=CC[C@H](CC1)[C@](C)(CCC=C(C)C)O | C15H26O
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ammonia water | 0.5 N | O.N
solvent | water | O | H2O
catalyst | silver nitrate | [N+](=O)([O-])[O-].[Ag+]
product | α-bisabolol chloride | CC1=CC[C@H](CC1)[C@](C)(CCC=C(C)C)O.[Cl-] | InChI=1S/C15H26O.ClH/c1-12(2)6-5-11-15(4,16)14-9-7-13(3)8-10-14;/h6-7,14,16H,5,8-11H2,1-4H3;1H/p-1/t14-,15+;/m1./s1
